US09233366B2
2-Iodotoluene (32 μL, 0.25 mmol) and n-butylacrylate (54 μL, 0.375 mmol) were coupled using the procedure described above to give 83% conversion to (E)-n-butyl 3-(2-methylphenyl)acrylate by GC analysis.

reactant | 2-Iodotoluene | 0.25 mmol, 32 μL | IC1=C(C=CC=C1)C | C7H7I
reactant | n-butylacrylate | 0.375 mmol, 54 μL | C(CCC)OC(C=C)=O | C7H12O2
product | (E)-n-butyl 3-(2-methylphenyl)acrylate | CC1=C(C=CC=C1)/C=C/C(=O)OCCCC | C14H18O2
